US05300506
To a suspension of 18.0 g (89.9 mmol, 1.0 equiv.) of N-[(4-aminophenyl)methyl]methanesulfonamide in 85 ml of water and 175 mL of concentrated aqueous hydrochloric acid at 0° C. was added a solution of 6.21 g (89.9 mmol, 1.0 equiv.) of sodium nitrite in 85 mL of water. The reaction mixture was stirred for fifteen minutes. Meanwhile a solution of 101.6 g of stannous chloride dihydrate in 175 mL of concentrated aqueous hydrochloric acid was prepared and cooled to -55° C. The solution of the diazonium salt was filtered into the stannous chloride solution. The reaction was maintained between -55° C. and -35° C. for one hour. The crystalline material was collected by filtration and dried under high vacuum at 65° C. for 16 hours to yield 23.9 g (>100%) of crude N-[(4-hydrazinylphenyl)methyl]methanesulfonamide hydrochloride.

reactant | N-[(4-aminophenyl)methyl]methanesulfonamide | 89.9 mmol, 18.0 g, 1.0 equiv. | NC1=CC=C(C=C1)CNS(=O)(=O)C | C8H12N2O2S
reactant | sodium nitrite | 89.9 mmol, 6.21 g, 1.0 equiv. | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 175 mL | Cl | ClH
reactant | hydrochloric acid | 175 mL | Cl | ClH
solvent | water | 85 ml | O | H2O
solvent | water | 85 mL | O | H2O
product | N-[(4-hydrazinylphenyl)methyl]methanesulfonamide hydrochloride | 23.9 g, >100% | Cl.N(N)C1=CC=C(C=C1)CNS(=O)(=O)C | InChI=1S/C8H13N3O2S.ClH/c1-14(12,13)10-6-7-2-4-8(11-9)5-3-7;/h2-5,10-11H,6,9H2,1H3;1H
